US07358253B2
e) (3-Hydroxy-naphthalen-1-yl)-acetic acid ethyl ester
(3-Benzyloxy-naphthalen-1-yl)-acetic acid ethyl ester (2.43 g, 7.58 mmol) is dissolved in MeOH (50 ml). Palladium on charcoal (807 mg) is added, and the reaction mixture is stirred at RT under an atmosphere of hydrogen (1 atm) for 14 h. The reaction mixture is filtered. Concentration yields the pure title compound. 1H NMR (DMSO, 400 MHz) δ 1.18 (t, J=7.2 Hz, 3H), 4.05 (s, 2H), 4.10 (q, J=7.2 Hz, 2H), 7.04 (d, J=1.8 Hz, 1H), 7.06 (d, J=1.8, 1H), 7.30 (t, J=7.8, 1H), 7.40 (t, J=7.8, 1H), 7.70 (d, J=7.8, 1H), 7.80 (d, J=7.8 Hz, 1H); ES-MS: 230 [M+H]+.

reactant | (3-Benzyloxy-naphthalen-1-yl)-acetic acid ethyl ester | 7.58 mmol, 2.43 g | C(C)OC(CC1=CC(=CC2=CC=CC=C12)OCC1=CC=CC=C1)=O | C21H20O3
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Palladium on charcoal | 807 mg | [Pd] | Pd
product | (3-Hydroxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC2=CC=CC=C12)O)=O | C14H14O3
